US07723332B2
According to general procedure A, 4-Bromo-3-fluoro-benzenesulfonyl chloride (0.40 g, 1.46 mmol) and methylamine (10 mL, 33% in ethanol) were stirred together for 16 hours. 4-bromo-3-fluoro-N-methylbenzenesulfonamide (0.33 g, 85%) was provided after purification. HRMS: calcd for C7H7BrFNO2S, 266.93649; found (EI, M+.), 266.9376. HPLC purity 100.0% at 210-370 nm, 8.7 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min.

reactant | 4-Bromo-3-fluoro-benzenesulfonyl chloride | 1.46 mmol, 0.40 g | BrC1=C(C=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
reactant | methylamine | 10 mL | CN | CH5N
product | 4-bromo-3-fluoro-N-methylbenzenesulfonamide | 0.33 g, 85% | BrC1=C(C=C(C=C1)S(=O)(=O)NC)F | C7H7BrFNO2S
